US09079894B2
To a stirred mixture of [1,4′]Bipiperidinyl-4,1′-dicarboxylic acid diethyl ester (5.51 grams, 17.67 mmol), tetrahydrofuran (34 mL) and water (34 mL) cooled at 0° C., lithium hydroxide monohydrate (742.0 mg, 17.67 mml) was added. The reaction mixture was stirred at room temperature for 16 hours, diluted with Ethyl acetate. The two layers were separated, the aqueous layer was acidified with 2N hydrochloric acid to pH: 3-4 and the volatiles were removed under reduced pressure to obtain [1,4′]Bipiperidinyl-4,1′-dicarboxylic acid 1′-ethyl ester (5.0 grams).

reactant | [1,4′]Bipiperidinyl-4,1′-dicarboxylic acid diethyl ester | 17.67 mmol, 5.51 grams | C(C)OC(=O)C1CCN(CC1)C1CCN(CC1)C(=O)OCC | C16H28N2O4
reactant | tetrahydrofuran | 34 mL | O1CCCC1 | C4H8O
reactant | water | 34 mL | O | H2O
reactant | lithium hydroxide monohydrate | 742.0 mg | O.[OH-].[Li+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [1,4′]Bipiperidinyl-4,1′-dicarboxylic acid 1′-ethyl ester | 5.0 grams, Yield: 94% | C(C)OC(=O)N1CCC(CC1)N1CCC(CC1)C(=O)O | C14H24N2O4
